US06187727B1
Preparation of 2-methyl-3-cyclohexylpropyl Acetate
To a cooled (0° C.), stirred solution of 2-methyl-3-cyclohexylpropanol (40.3 g., 0.26 mol.), dimethylaminopyridine (2.5 g., 0.02 mol.), and triethylamine (38.4 g., 0.38 mol.) in 200 ml of toluene was added acetic anhydride (39.4 g. 0.39 mol) over 30 minutes. The resulting solution was allowed to warm to room temperature and stirred for an additional 1.5 hours. The reaction mixture was washed twice with 125 ml portions of 2 N aqueous sodium chloride, dried over magnesium sulfate and concentrated to a colorless oil which was distilled to obtain 72 g. 98% yield; bp 67-71° C. at 0.6 mm. Odor: very pleasant fruity, rosy, floral. Mass Spectrum from 5508-36. MS (El) m/z (relative intensity) 155 (M+−C2H3O, 2), 138 (M+−C2H4O2, 15).

reactant | 2-methyl-3-cyclohexylpropanol | 0.26 mol, 40.3 g | CC(CO)CC1CCCCC1 | C10H20O
reactant | dimethylaminopyridine | 0.02 mol, 2.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 0.38 mol, 38.4 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.39 mol, 39.4 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-3-cyclohexylpropyl Acetate | 98% yield | C(C)(=O)OCC(CC1CCCCC1)C | C12H22O2
